US09212187B2
Synthesis of 1-Methyl-6-{3-[(2-methylamino-ethyl)-pyridin-4-ylmethyl-amino]-propoxy}-1H-quinolin-2-one
A 4N-hydrogen chloride ethyl acetate solution(48 ml) was added to an ethyl acetate solution (300 ml) of methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester (11.5 g), and the mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure. PL-HCO3(40 g) was added to the methanol solution of the residue and followed by celite filtration. The filtrate was condensed under reduced pressure to give the title compound(9.96 g) as a brown oil.

reactant | hydrogen chloride ethyl acetate | 48 ml | C(C)OC(C)=O.Cl
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester | 11.5 g | C(C)(C)(C)OC(N(CCN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)C)=O | C27H36N4O4
solvent | methanol | CO | CH4O
product | 1-Methyl-6-{3-[(2-methylamino-ethyl)-pyridin-4-ylmethyl-amino]-propoxy}-1H-quinolin-2-one | 9.96 g | CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)CCNC)=O | C22H28N4O2
